US06326375B1
(2) Preparation of phenyl N-[5-(4-hydroxyphenyl)-2-pyrazinyl]carbamate
To solution of 2-amino-5-(4-hydroxyphenyl)pyrazine (283 mg) in pyridine (20 mL) was added under ice-cooling phenyl chloroformate (199 μL) and the mixture was stirred for 1 hour. The reaction mixture was poured into water (30 mL) and extracted with ethyl acetate (20 mL×3). The organic layer was washed with saturated saline solution and then dried over anhydrous Na2SO4. The concentration of the solvent left a crystal residue, which was washed with diethyl ether (10 mL) to give the subject compound (314 mg).

reactant | 2-amino-5-(4-hydroxyphenyl)pyrazine | 283 mg | NC1=NC=C(N=C1)C1=CC=C(C=C1)O | C10H9N3O
reactant | phenyl chloroformate | 199 μL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | 30 mL | O | H2O
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | phenyl N-[5-(4-hydroxyphenyl)-2-pyrazinyl]carbamate | 314 mg | OC1=CC=C(C=C1)C=1N=CC(=NC1)NC(OC1=CC=CC=C1)=O | C17H13N3O3
